US08138174B2
To a magnetically stirred solution of 7-(tetrahydropyran-2-yloxy)-1-[4-(trifluoromethyl)phenyl]heptan-1-one (7.70 g, 0.0215 mol) in methanol (50 ml) was added para-toluenesulfonic acid hydrate (4.18 g, 0.022 mol). The resulting acidic mixture (pH˜2, pH paper) was reacted at room temperature for 20 hours. NaOH (1N) was added until the solution was neutral (pH˜7, pH paper) and the resulting mixture was concentrated in vacuo. NaOH (1N, 50 ml) was added and the mixture was extracted with dichloromethane (3×). The combined organic layers were successively washed with water and brine. The organic layer was dried over Na2SO4, filtered and concentrated in vacuo to give crude 7-hydroxy-1-[4-(trifluoromethyl)phenyl]heptan-1-one (5.85 g, 99% yield) as a white solid. This obtained solid was treated with pyridine (29.6 ml) and a solution of tosyl chloride (17.72 g, 0.093 mol) in pyridine (89 ml) was added at 0° C. The mixture was allowed to attain room temperature and reacted for 1 hour. The mixture was cooled at −10° C. and quenched with excess water. Extraction with diethyl ether (3×), followed by drying over Na2SO4, filtering and concentration in vacuo gave crude product which was purified by column chromatography (dichloromethane/heptane=2/1 (v/v)) to give pure toluene-4-sulfonic acid 7-oxo-7-[4-(trifluoromethyl)phenyl]heptyl ester (7.91 g, 87% yield). 1H-NMR (400 MHz, CDCl3) δ 1.35-1.38 (m, 4H), 1.57-1.73 (m, 4H), 2.44 (s, 3H), 2.97 (t, J=7, 2H), 4.03 (t, J=7, 2H), 7.35 (d, J˜8, 2H), 7.73 (d, J˜8, 2H), 7.79 (d, J˜8, 2H), 8.04 (d, J˜8, 2H).

reactant | 7-(tetrahydropyran-2-yloxy)-1-[4-(trifluoromethyl)phenyl]heptan-1-one | 0.0215 mol, 7.70 g | O1C(CCCC1)OCCCCCCC(=O)C1=CC=C(C=C1)C(F)(F)F | C19H25F3O3
reactant | para-toluenesulfonic acid hydrate | 0.022 mol, 4.18 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | NaOH | 1N | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 7-hydroxy-1-[4-(trifluoromethyl)phenyl]heptan-1-one | 5.85 g, 99% yield | OCCCCCCC(=O)C1=CC=C(C=C1)C(F)(F)F | C14H17F3O2
